US06100272
2-(4-Bromo-3-methylphenyl)-2,3-dihydroisoindol-1-one
The title compound was prepared from 4-bromo-3-methylaniline and phthalide using a similar procedure to Description 20, as a white solid (76%).

reactant | 4-bromo-3-methylaniline | BrC1=C(C=C(N)C=C1)C | C7H8BrN
reactant | phthalide | C1(=O)OCC2=CC=CC=C12 | C8H6O2
product | 2-(4-Bromo-3-methylphenyl)-2,3-dihydroisoindol-1-one | BrC1=C(C=C(C=C1)N1C(C2=CC=CC=C2C1)=O)C | C15H12BrNO
